US07138363B2
Under a nitrogen atmosphere, 4 g (approximately 60% dispersion in paraffin oil, about 100 mmol) of sodium hydride are washed twice with 60 ml of n-hexane each time, and then 400 ml of absolute tetrahydrofuran are added. The mixture is heated to 50° C. and, in the course of 2 hours, a solution of 13.36 g (72 mmol) of 4-chloropyridine-2-carboxylic acid ethyl ester and 10.04 g (114 mmol) of ethyl acetate in 60 ml of absolute tetrahydrofuran is added dropwise, during which the mixture begins to boil vigorously. When the exothermic reaction has subsided, stirring is carried out for 12 hours at room temperature to complete the reaction. The yellow suspension is poured into 400 ml of ice-water and rendered neutral with 15% hydrochloric acid, and the solution is concentrated to half its volume. Extraction is then carried out twice with 200 ml of ethyl acetate each time, and the organic extracts are combined, dried (sodium sulfate), filtered and concentrated. 14.5 g of 3-(4-chloropyrid-2-yl)-3-oxopropionic acid ethyl ester are obtained in the form of a light-brown oil, which is used for further syntheses without further purification.

reactant | sodium hydride | about 100 mmol, 4 g | [H-].[Na+]
reactant | 4-chloropyridine-2-carboxylic acid ethyl ester | 72 mmol, 13.36 g | C(C)OC(=O)C1=NC=CC(=C1)Cl | C8H8ClNO2
reactant | ethyl acetate | 114 mmol, 10.04 g | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | 60 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 3-(4-chloropyrid-2-yl)-3-oxopropionic acid ethyl ester | 14.5 g | C(C)OC(CC(=O)C1=NC=CC(=C1)Cl)=O | C10H10ClNO3
